US08633190B2
Step 1: 5-Hydroxy-cyclohexane-1,3-dicarboxylic acid dimethyl ester
To a solution of dimethyl-5-hydroxyisophthalate (3.50 g, 16.6 mmol) in methanol (60.0 mL) was added 5% rhodium on alumina (0.80 g) at 0° C., followed by acetic acid (0.60 mL, 10.6 mmol). The reaction mixture was shaken under hydrogen (55 psi) at room temperature overnight and then filtered through Celite® and concentrated under reduced pressure. The residue was purified by CombiFlash® system (12 g silica gel cartridge; gradient: 0 to 50% ethyl acetate in DCM over 30 min) to give 3.00 g (83%) of the title compound, 5-hydroxy-cyclohexane-1,3-dicarboxylic acid dimethyl ester. 1H NMR (400 MHz, CDCl3): δ 3.56-3.78 (m, 7H), 2.15-2.51 (m, 5H), 1.25-1.66 (m, 3 H).

reactant | dimethyl-5-hydroxyisophthalate | 16.6 mmol, 3.50 g | COC(C1=CC(C(=O)OC)=CC(=C1)O)=O | C10H10O5
reactant | acetic acid | 10.6 mmol, 0.60 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 60.0 mL | CO | CH4O
catalyst | rhodium on alumina | 0.80 g | [Rh] | Rh
product | 5-Hydroxy-cyclohexane-1,3-dicarboxylic acid dimethyl ester | 3.00 g, 83% | COC(=O)C1CC(CC(C1)O)C(=O)OC | C10H16O5
